US05905074
To a solution of 3.4 g (14.1 mMol) of (1RS,4aS,5S,8aRS)-5-tert-Butoxy-4a-methyl-decahydro-naphtalen-1-ol in 34 ml methylenechloride was added under stirring 3.66 g (17.0 mMol) of pyridiniumchlorochromate and the reaction mixture was kept under stirring overnight. Then the reaction was diluted with 33 ml diethylether, kept stirring for 15 minutes and filtered over florisil®. The filtrate was evaporated to dryness in vacuo and the residue dissolved in 33 ml of tetrahydrofuran. Under stirring and argon atmosphere, 1.65 ml of a one molar solution of potassium-tertio-butoxide in tetrahydrofuran was added and the reaction was kept overnight. This equilibration is monitored by TLC (silica gel, hexane/ethylacetate 4/1), which shows the almost complete disappearance of one of the two epimers. The reaction mixture is evaporated in vacuo to dryness, the residue is taken up in water and extracted three times with diethylether. The combined organic phase is washed with water and brine, dried over sodium sulfate and evaporated in vacuo. The residue is chromatographed over 120 g of silica gel with hexane/ethylacetate 9/1 to yield 2.39 g (71%) of pure (4aS,5S,8aR)-5-tert-Butoxy-4a-methyl-octahydro-naphtalen-1-one. An analytical sample was obtained by crystallization from hexane with a m.p. of 78-79° C.

reactant | (1RS,4aS,5S,8aRS)-5-tert-Butoxy-4a-methyl-decahydro-naphtalen-1-ol | 14.1 mMol, 3.4 g | C(C)(C)(C)O[C@@H]1[C@]2(CCCC(C2CCC1)O)C | C15H28O2
reactant | pyridiniumchlorochromate | 17.0 mMol, 3.66 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylenechloride | 34 ml | C(Cl)Cl | CH2Cl2
solvent | diethylether | 33 ml | C(C)OCC | C4H10O
product | (4aS,5S,8aR)-5-tert-Butoxy-4a-methyl-octahydro-naphtalen-1-one | 2.39 g, 71% | C(C)(C)(C)O[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C | C15H26O2
